US07863302B2
(6-bromo-benzo[b]thiophen-2-yl)-acetaldehyde
To a 0° C. solution of potassium tert-butoxide (2.50 g, 21.4 mmol) in tetrahydrofuran (100 mL) is added (methoxymethyl)triphenylphosphonium chloride (7.49 g, 21.4 mmol). The reaction mixture is stirred for 20 minutes. 6-Bromo-benzo[b]thiophene-2-carbaldehyde (2.58 g; 10.7 mmol) is added and the ice-bath is removed. The mixture is stirred at room temperature for 16 hours. The reaction mixture is quenched with AcOH (5 mL). The mixture is treated with water (50 mL) and concentrated to a residue under reduced pressure. The residual aqueous solution is extracted with EtOAc (50 mL×2). The combined organic layers are dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product is purified via flash chromatography eluting with 10% EtOAc/Hexanes. The appropriate fractions are combined and concentrated under reduced pressure to a residue. The residue is dissolved in THF (50 mL) and treated with HCl (5 N, 5 mL). The mixture is stirred at 70° C. for 60 minutes and neutralized with NaOH (5 N, 5 mL). The mixture is concentrated to a residue under reduced pressure. The residual aqueous mixture is extracted with EtOAc (50 mL×2). The combined organic layers are dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product is purified via silica gel chromatography eluting with 25% EtOAc/Hexanes to provide the title compound (2.25 g, 82%). ES/MS m/e 254.8, 252.8 (M−1).

reactant | potassium tert-butoxide | 21.4 mmol, 2.50 g | CC(C)([O-])C.[K+]
reactant | (methoxymethyl)triphenylphosphonium chloride | 21.4 mmol, 7.49 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 6-Bromo-benzo[b]thiophene-2-carbaldehyde | 10.7 mmol, 2.58 g | BrC=1C=CC2=C(SC(=C2)C=O)C1 | C9H5BrOS
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (6-bromo-benzo[b]thiophen-2-yl)-acetaldehyde | 2.25 g, 82% | BrC=1C=CC2=C(SC(=C2)CC=O)C1 | C10H7BrOS
